US07989637B2
To a mixture of 5-azido-4′-methyl-biphenyl-3-carboxylic acid methyl ester (200 mg, 0.75 mmol) and ethyl isobutyrylacetate (119 mg, 0.75 mmol) in EtOH (5 mL) was added EtONa (51 mg, 0.75 mmol) and the mixture was heated to 80° C. for two hours, then cooled to room temperature. EtOH was removed from the reaction mixture to afford 5-isopropyl-1-(5-methoxycarbonyl-4′-methyl-biphenyl-3-yl)-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester as a gel which was used directly in the next step.

reactant | 5-azido-4′-methyl-biphenyl-3-carboxylic acid methyl ester | 0.75 mmol, 200 mg | COC(=O)C=1C=C(C=C(C1)N=[N+]=[N-])C1=CC=C(C=C1)C | C15H13N3O2
reactant | ethyl isobutyrylacetate | 0.75 mmol, 119 mg | C(C(C)C)(=O)CC(=O)OCC | C8H14O3
reactant | EtONa | 0.75 mmol, 51 mg | CC[O-].[Na+]
solvent | EtOH | 5 mL | CCO | C2H6O
product | 5-isopropyl-1-(5-methoxycarbonyl-4′-methyl-biphenyl-3-yl)-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=NN(C1C(C)C)C=1C=C(C=C(C1)C(=O)OC)C1=CC=C(C=C1)C | C23H25N3O4
